US04950674
1-Chloro-3-(4-methylphenoxy)propane
A mixture of 27 g (0.25 mole) of p-cresol, 78.7 g (0.5 mole) of 1-bromo-3-chloropropane and 103.7 g (0.75 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 24 hr. The reaction mixture was cooled, filtered and concentrated in vacuo at 90° C. to give 47.1 g of an oil residue. The oil was subjected to vacuum distillation to give 39.3 g (85%) of clear oil, bp 85°-90° C. at 0.1 mm Hg.

reactant | p-cresol | 0.25 mole, 27 g | C1=CC(=CC=C1O)C | C7H8O
reactant | 1-bromo-3-chloropropane | 0.5 mole, 78.7 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.75 mole, 103.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 1-Chloro-3-(4-methylphenoxy)propane | 47.1 g | ClCCCOC1=CC=C(C=C1)C | C10H13ClO
